US06759554B2
4-(2-Methylallyloxy)anisole
A test tube was charged with CuI (20 mg, 0.10 mmol, 0.10 equiv), 1,10-phenanthroline (36 mg, 0.20 mmol, 0.20 equiv), Cs2CO3 (652 mg, 2.0 mmol, 2.0 equiv), 4-iodoanisole (234 mg, 1.0 mmol, 1.0 equiv), 2-methyl-2-propen-1-ol (168 μL, 2.0 mmol, 2.0 equiv) and toluene (0.5 mL). The test tube was sealed and the reaction mixture was stirred at 110° C. for 28 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel, eluting with diethyl ether. The filtrate was concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (2×20 cm; pentane:diethyl ether 30:1) provided 139 mg (78% yield) of the title compound as a colorless solid.

reactant | 1,10-phenanthroline | 0.20 mmol, 36 mg, 0.20 equiv | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 2.0 mmol, 652 mg, 2.0 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-iodoanisole | 1.0 mmol, 234 mg, 1.0 equiv | IC1=CC=C(C=C1)OC | C7H7IO
reactant | 2-methyl-2-propen-1-ol | 2.0 mmol, 168 μL, 2.0 equiv | CC(CO)=C | C4H8O
catalyst | CuI | 0.10 mmol, 20 mg, 0.10 equiv | [Cu]I
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Methylallyloxy)anisole | 139 mg, 78% yield | CC(COC1=CC=C(C=C1)OC)=C | C11H14O2
